data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC=C(OC2=C(C)C=C(N3N=CC(=O)N(COCC[Si](C)(C)C)C3=O)C=C2C)C=C1Br.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+].[Pd:2]|(1, 2)",22,6,reaction_6,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC=C(OC2=C(C)C=C(N3N=CC(=O)N(COCC[Si](C)(C)C)C3=O)C=C2C)C=C1Br.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+]|(2, 1)",22,5,reaction_6,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC=C(OC2=C(C)C=C(N3N=CC(=O)N(COCC[Si](C)(C)C)C3=O)C=C2C)C=[C:2]1[Br:1].O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+]|(3, 2);((2, 1), 3)",22,4,reaction_6,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC=C(OC2=C(C)C=C(N3N=CC(=O)N(COCC[Si](C)(C)C)C3=O)C=C2C)C=[C]1[Pd-2:3]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[Br:4].O.O=C([O-])[O-:1].OB(O)C1=CC=CC=C1.[Na+:2].[Na+]|(1, 3);((3, 4), 2)",22,3,reaction_6,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC=C(OC2=C(C)C=C(N3N=CC(=O)N(COCC[Si](C)(C)C)C3=O)C=C2C)C=[C]1[Pd-2:3]([O]C(=O)[O-])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O.O[B:1](O)[C:2]1=CC=CC=C1.[Na+].[Na][Br]|(3, 2);((2, 1), 3)",22,2,reaction_6,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC=C(OC2=C(C)C=C(N3N=CC(=O)N(COCC[Si](C)(C)C)C3=O)C=C2C)C=[C]1[Pd-2:2]([C]1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([B:1](O)O)[O:3]C(=O)[O-].O.[Na+].[Na][Br]|((2, 3), 1);((1, 2), 2)",22,1,reaction_6,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CN(C)C=O.COC1=CC=C(OC2=C(C)C=C(N3N=CC(=O)N(COCC[Si](C)(C)C)C3=O)C=C2C)C=[C:1]1[Pd-2:2]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:3]1=CC=CC=C1.O.O=C([O-])OB(O)O.[Na+].[Na][Br]|((2, 3), 1);((1, 2), 2)",22,0,reaction_6,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COCCN1C(C2=CC=C(C(C)C)C=C2)=NC2=C(Br)C=CC(OC)=C21.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+].[Pd:2]|(1, 2)",6,6,reaction_49,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COCCN1C(C2=CC=C(C(C)C)C=C2)=NC2=C(Br)C=CC(OC)=C21.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+]|(2, 1)",6,5,reaction_49,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COCCN1C(C2=CC=C(C(C)C)C=C2)=NC2=[C:2]([Br:3])C=CC(OC)=C21.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[Na+].[Na+]|(1, 2);((2, 3), 1)",6,4,reaction_49,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COCCN1C(C2=CC=C(C(C)C)C=C2)=NC2=[C]([Pd-2:1]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[Br:4])C=CC(OC)=C21.O.O=C([O-])[O-:2].OB(O)C1=CC=CC=C1.[Na+:3].[Na+]|(2, 1);((1, 4), 3)",6,3,reaction_49,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COCCN1C(C2=CC=C(C(C)C)C=C2)=NC2=[C]([Pd-2:1]([O]C(=O)[O-])([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=CC(OC)=C21.O.O[B:2](O)[C:3]1=CC=CC=C1.[Na+].[Na][Br]|(1, 3);((3, 2), 1)",6,2,reaction_49,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COCCN1C(C2=CC=C(C(C)C)C=C2)=NC2=[C]([Pd-2:1]([C]3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([O:2]C(=O)[O-])[B:3](O)O)C=CC(OC)=C21.O.[Na+].[Na][Br]|((1, 2), 3);((3, 1), 1)",6,1,reaction_49,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.COCCN1C(C2=CC=C(C(C)C)C=C2)=NC2=[C:3]([Pd-2:1]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[C:2]3=CC=CC=C3)C=CC(OC)=C21.O.O=C([O-])OB(O)O.[Na+].[Na][Br]|((1, 2), 3);((3, 1), 1)",6,0,reaction_49,USPTO_suzuki,train
